US06225324B1
A solution of 1-(6-chloropyrimidin-4-yl)-4-piperidone ethylene ketal (2 g, 8.87 mmol) in ethanol (25 ml) and ethyl acetate (25 ml) was hydrogenated at 60 psi for 1 hr over 10% Pd/C (0.25 g). The mixture was filtered and the filtrate was concentrated in vacuo. The residue was dissolved in methylene chloride and filtered through celite. The filtrate was concentrated in vacuo to give 1-(pyrimidin-4-yl)-4-piperidone ethylene as a white solid (112-115° C.).

reactant | 1-(6-chloropyrimidin-4-yl)-4-piperidone ethylene ketal | 8.87 mmol, 2 g | C1COC2(CCN(CC2)C2=NC=NC(=C2)Cl)O1 | C11H14ClN3O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 1-(pyrimidin-4-yl)-4-piperidone ethylene | C=C.N1=CN=C(C=C1)N1CCC(CC1)=O | InChI=1S/C9H11N3O.C2H4/c13-8-2-5-12(6-3-8)9-1-4-10-7-11-9;1-2/h1,4,7H,2-3,5-6H2;1-2H2
